US04122263
2-[2'-(4"-chlorobenzylthio)-5'-chlorophenyl]-imidazoline hydrochloride
53 Parts of 4-chlorobenzothietane-2-spiro-2'-imidazolidine is reacted with 40 parts of p-chlorobenzyl chloride in 500 parts of methanol as described in Example 11. The yield is 84 parts (91% of theory) and the melting point is 248° to 250° C.).

reactant | 4-chlorobenzothietane-2-spiro-2'-imidazolidine | ClC=1C=CC2=C(C1)C1(NCCN1)S2 | C9H9ClN2S
reactant | p-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | methanol | CO | CH4O
product | 2-[2'-(4"-chlorobenzylthio)-5'-chlorophenyl]-imidazoline hydrochloride | Cl.ClC1=CC=C(CSC2=C(C=C(C=C2)Cl)C=2NCCN2)C=C1 | InChI=1S/C16H14Cl2N2S.ClH/c17-12-3-1-11(2-4-12)10-21-15-6-5-13(18)9-14(15)16-19-7-8-20-16;/h1-6,9H,7-8,10H2,(H,19,20);1H
